Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been overworking and not sleeping." 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old Caucasian man, previously diagnosed with bipolar 
affective disorder, type I with psychotic features, s/p numerous 
psychiatric hospitalizations, recently discharged from ___ on 
___ following a 6 day admission for mania with psychotic 
features, who presents to ___ after asking a bus driver to 
call ___, subsequently found to be making concerning statements 
that there was a conspiracy against him, he is psychic, and had 
not slept for ___ days. 
.
Upon initial interview in the ED, patient was found to be 
standing naked in front of the exam room. Interview was notable 
for paranoia, with patient stating he is in the hospital for 
protection from the secret service. Patient reported his prior 
psychiatric hospitalizations were related to his manipulating 
the system over the course of years in order to obtain help in 
the best way he can. Reported he had threatened suicide in the 
past but denied wanting to kill himself. Patient also reported 
he was "going to open the door to opportunity but also open the 
door to things that could go wrong." Reported he has 10 jobs at 
this time, had slept 15 hours in the past 7 days, endorsed that 
many people were telling him he is super human. Also told 
interviewer he has a psychopathic memory, a bigger memory than 
anyone, which is the size of a computer brain. 
.
ED Course: Patient was in good behavioral control in the 
emergency department and did not require physical or chemical 
restraints. 
.
Patient seen with ___, MS ___ and Dr. ___, 
neurology resident. Upon interview with Mr. ___, who was a 
limited historian, he reported, "I'm taking programs, T-shirts, 
and taking on ___ Flea market and taking on... I never get 
like this... I never get tired and the Ativan is worrying me... 
I have no time for play, I have no tv at home." Mr. ___ 
reported that recently he "started taking on extra jobs... I'm a 
___, ___ and I work too much." Went on to state he lives 
in ___ with his fiancé and that "very recently I took on too 
many things-- I took on as many contracts as I could." Stated he 
was working at a ___ selling T shirts, was 
working as ___, selling programs at ___, working as a ___, and was also selling popcorn and 
cotton candy in ___. In addition, stated he was also 
selling T shirts novelties outside of ___. In this 
setting, patient admitted he was not sleeping well, about ___ 
hours over the past ___ days.  Admitted he was "so high" and was 
easily distractable. Initially denied grandiosity but then 
promptly said, "I was a ___ and was above everyone else... I 
think I need to be here for about a week... I'm bipolar, I'm 
manic." Reported, "I'm sorry, I'd love to help you as much as I 
can and so I think that anything I tell you, you're not going to 
get the best out of me." Patient then terminated the interview. 
 
Past Medical History:
- L cerebellar astrocytoma s/p resection and placement of VPS 
  - performed at ___ when patient was approximately ___ years old
- ?seizures, though review of records indicates that these were 
more likely PNES

PAST PSYCHIATRIC HISTORY:
- Diagnoses: bipolar I disorder 
- Hospitalizations: s/p numerous psychiatric hospitalizations 
for mania and depression with last psychiatric hospitalization 
at ___ from ___ for mania and psychosis. 
- Psychiatrist: Dr. ___, MD 
- ___ case manager: ___ 
- ___ Worker: ___: ___
- Medication Trials: Depakote, Abilify, Risperidone, BuSpar,
Mellaril, GED granulated electronic device. Of note, pateint 
also
reported he had been to ___ in ___
from ___ and stated at that place he was brain-washed,
states he has testified and was on the news. 
- SA/SIB: reported prior attempt
- Denies access to weapons 
 
Social History:
___
Family History:
Family psychiatric history: Patient is adopted
 
Physical Exam:
VS T98.0 HR78 BP127/90 RR16 Sat100RA
Neurological:
*station and gait: normal initiation, narrow based
*tone and strength: normal tone, moves all extremities 
symmetrically, reports that he is weaker on the left (though 
this is difficult to elicit on confrontational testing), there 
is no pronator drift, though he does orbit about the LUE
cranial nerves: R head tilt, L eye hypertropia, saccadic 
intrusions in all directions of gaze, R NLFF and decreased 
activation of frontalis, drooling out of the right corner of the 
mouth, reports decreased sensation to LT over L V2, palate 
elevates symmetrically
coord: very mild dysmetria on L FNF
*Appearance: wearing hospital gown and scrub pants
*Mood and Affect: "good" / congruent
*Thought process: usually linear but can be circumstantial and
tangential with some responses, no clear LOA
*Thought Content: denies SI/HI/AVH.
*Judgment and Insight: fair / fair
*Attention, *orientation, and executive function: attentive to
examiner but easily distracted, oriented to situation
*Memory: grossly intact for recent and remote events
*Fund of knowledge: appropriate
*Speech: pressured
*Language: fluent ___ 
 
Pertinent Results:
==========
LABORATORY
==========
___ - 02:12   
138  ___   AGap=16 
3.5  23  0.9  

Serum Tox Negative 
Urine Tox Negative 

7.0  11.9  206 
     35.3  
N:71.8 L:18.8 M:8.6 E:0.1 Bas:0.4 

U/A - 30 protein, 0 WBCs, few Bacteria
Ucx - no growth
 
Brief Hospital Course:
Mr. ___ is a ___ M w PMHx of L cerebellar astrocytoma 
s/p resection and VPS placement in childhood, previously 
diagnosed with bipolar affective disorder type I with psychotic 
features, s/p numerous psychiatric hospitalizations who presents 
to ___ after asking a bus driver to call ___ and subsequently 
found to be making concerning statements that there was a 
conspiracy against him, he is psychic, and that he had not slept 
for ___ days. He was admitted for stabilization of manic 
symptoms and optimization/re-initiation of medication regimen.
.
Initial interview and mental status examination was significant 
for mania in the setting of medication noncompliance with flight 
of ideas, grandiosity, disorganized thought process, decreased 
need for sleep, impulsivity, and paranoia that significantly 
improved in the setting of reinitiaiton of medications with 
some; etiology of presentation consistent with BPAD with mania 
and psychotic features. 

#. LEGAL / SAFETY: Patient admitted on a ___, upon 
admission, signed a CV, which was accepted. He maintained his 
safety throughout his psychiatric hospitalization on 15 minute 
checks and did not require physical or chemical restraints. 

#. BPAD Type I w/ psychotic features, admitted w manic episode
- Patient was compliant in attending groups where he 
participated appropriately. He was compliant with meeting with 
his treatment team and participated actively in his care. 
- Lithium was continued at 300 mg po qd and 600 mg po qhs with 
lithium level= 0.5 on ___ recommendation would be to continue 
to trend symptoms, consider increasing to 600 mg po bid. 
- Patient was initially started on risperidone titrated up to 2 
mg po bid and 1 mg po q4h prn agitation. However, patient 
reported some sedation and stated he would prefer to be on 
Latuda. Given his reports of depression in the past/history of 
bipolar depression, we discussed the risks and benefits of 
Latuda, which he had been on in the past and tolerated well. 
Latuda was started and titrated up to 40 mg po qd, which he 
tolerated well with no complaints of side effects. Of note, did 
complain of feeling energetic on the Latuda, but this was most 
likely secondary to the simultaneous down titration of 
risperidone
- Risperidone was continued at 1 mg po q4h prn agitation ___ 
recommendation to continue cross tapering with Latuda to avoid 
polypharmacy. Of note, he tolerated this well with no complaints 
of side effects
- Simultaneously, for anxiety/insomnia, Ativan was started and 
tapered to 0.5- 1 mg po q4h prn anxiety and agitation in 
addition to 0.5 mg po qhs for insomnia
- Of note, patient consistently denied suicidal ideation or 
thoughts of self harm throughout his psychiatric hospitalization 
and by time of discharge was able to perform ADL's 
independently. Prior to discharge, met with patient's ___ 
worker, who felt comfortable having him return home with follow 
up with his new outpatient psychiatrist later this week. At time 
of discharge, he reported improvement in symptoms, good sleep, 
appetite, was notably euthymic with thought process that was 
linear, goal and future oriented.

#. h/o posterior fossa mass
- s/p resection in childhood and placement of VPS
- no active issues
- deficits noted on examination are likely chronic and referable 
to this lesion and/or sequelae of resection and VPS placement
  - L ___ nerve palsy (also could be congenital)
  - R ___ nerve palsy (lower motor neuron type)
  - mild L hemibody weakness
  - mild L hemibody ataxia]
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Latuda (lurasidone) 40 mg oral daily   
2.  Lithium Carbonate SR (Lithobid) 300 mg PO DAILY  
3.  Lithium Carbonate SR (Lithobid) 600 mg PO QHS 
Lithobid SR  
4.  LORazepam 0.5 mg PO Q4H:PRN agitation, anxiety, insomnia   
5.  RisperiDONE 1 mg PO Q4H PRN  agitation  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Bipolar affective disorder, Type 1; manic episode

 
Discharge Condition:
VS T98.0 HR78 BP127/90 RR16 Sat100RA
Neurological:
*station and gait: normal initiation, narrow based
*tone and strength: normal tone, moves all extremities 
symmetrically, reports that he is weaker on the left (though 
this is difficult to elicit on confrontational testing), there 
is no pronator drift, though he does orbit about the LUE
cranial nerves: R head tilt, L eye hypertropia, saccadic 
intrusions in all directions of gaze, R NLFF and decreased 
activation of frontalis, drooling out of the right corner of the 
mouth, reports decreased sensation to LT over L V2, palate 
elevates symmetrically
coord: very mild dysmetria on L FNF
*Appearance: wearing hospital gown and scrub pants
*Mood and Affect: 'good' / congruent
*Thought process: usually linear but can be circumstantial and
tangential with some responses, no clear LOA
*Thought Content: denies SI/HI/AVH.
*Judgment and Insight: fair / fair
*Attention, *orientation, and executive function: attentive to
examiner but easily distracted, oriented to situation
*Memory: grossly intact for recent and remote events
*Fund of knowledge: appropriate
*Speech: pressured
*Language: fluent ___ 

 
Discharge Instructions:
You were hospitalized at ___ for a manic episode. While you 
were here we started Lithium and Latuda for mood stabilization. 
You are now ready for discharge with continued treatment through 
___.

- Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
- Please continue all medications as directed.
- Please do not misuse alcohol or drugs (whether prescription 
drugs or illegal drugs) as this can further worsen your medical 
and psychiatric illnesses.
- Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
- Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___